US07115611B2
A] 2-{4-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethylsulfanyl]-2-methyl-phenoxy-2-methyl-propionic acid ethyl ester
In analogy to the procedure described in example 142D], 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 142C]) was reacted with 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 27F]) to give the title compound as colorless oil.

reactant | 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
product | 4-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethylsulfanyl]-2-methyl-phenoxy-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)SCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C28H29F3N2O3S
